US09290485B2
c) tert-butyl (4,6-dimethyl-5-((1-((7-methylquinolin-3-yl)methyl)-1H-1,2,3-triazole-4-carboxamido)methyl)pyridin-2-yl)carbamate
To a solution of 3-(azidomethyl)-7-methylquinoline (46.0 mg, 0.232 mmol) and tert-butyl (4,6-dimethyl-5-(propionamidomethyl)pyridin-2-yl)carbamate (70 mg, 0.231 mmol) in t-BuOH (1.8 ml)/water (1.8 ml) were added copper(II) sulfate pentahydrate (11.52 mg, 0.046 mmol) and sodium ascorbate (45.7 mg, 0.231 mmol). Reaction mixture was stirred overnight at 23° C. Reaction mixture was poured into water and extracted twice with ethyl acetate. Combined organic layers were washed with brine, dried over sodium sulfate and evaporated to afford a crude product, which was purified by silica gel chromatography (cyclohexane/ethyl acetate from 100/0 to 0/100) to afford the title compound. HPLC (Method G) Rt=1.408 min, MS (Method V) [M+H]+=502.4.

reactant | 3-(azidomethyl)-7-methylquinoline | 0.232 mmol, 46.0 mg | N(=[N+]=[N-])CC=1C=NC2=CC(=CC=C2C1)C | C11H10N4
reactant | tert-butyl (4,6-dimethyl-5-(propionamidomethyl)pyridin-2-yl)carbamate | 0.231 mmol, 70 mg | CC1=CC(=NC(=C1CNC(CC)=O)C)NC(OC(C)(C)C)=O | C16H25N3O3
reactant | water | 1.8 ml | O | H2O
reactant | sodium ascorbate | 0.231 mmol, 45.7 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-BuOH | 1.8 ml | CC(C)(C)O | C4H10O
catalyst | copper(II) sulfate pentahydrate | 0.046 mmol, 11.52 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | tert-butyl (4,6-dimethyl-5-((1-((7-methylquinolin-3-yl)methyl)-1H-1,2,3-triazole-4-carboxamido)methyl)pyridin-2-yl)carbamate | CC1=CC(=NC(=C1CNC(=O)C=1N=NN(C1)CC=1C=NC2=CC(=CC=C2C1)C)C)NC(OC(C)(C)C)=O | C27H31N7O3
